**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  Common Mode Power Line Choke 
* Matchcode:              WE-CMB HC 
* Library Type:           Pspice
* Version:                rev25a
* Created/modified by:    Ella      
* Date and Time:          2025-07-29
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2025 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt  CMBHC_S_7448225007_700u  1  2  3  4
X1  1  2  3  4  CMBHC  PARAMS:
+  L1=799.8822f
+  L2=999.9057f
+  L3=383.6199u
+  L4=999.9057f
+  L5=248.6262u
+  C1=2.3636p
+  C2=16.4769p
+  Rs1=99.9994
+  Rs2=9.9999
+  Rs3=2.4558k
+  Rs4=999.9057m
+  Rs5=3.2997k
+  R2=999.9512m
+  dL3=151.2058n
+  dC3=4.2289p
+  dL4=5.9502n
+  dC4=3.0154p
+  dR3=477.6953m
+  dR4=347.2696
+  dR5=1.9798
+  dR6=107.1490
+  Rdc=15m
+  ck=10.0773f
.ends
*****
.subckt  CMBHC_S_7448226404_350u  1 2 3 4
X1  1  2  3  4  CMBHC  PARAMS:
+  L1=799.9739f
+  L2=999.9791f
+  L3=199.3858u
+  L4=999.9791f
+  L5=182.9242u
+  C1=2.0761p
+  C2=20.6132p
+  Rs1=99.9995
+  Rs2=9.9999
+  Rs3=1.3857k
+  Rs4=999.9791m
+  Rs5=1.8685k
+  R2=1
+  dL3=86.7057n
+  dC3=3.6557p
+  dL4=2.6617n
+  dC4=4.1097p
+  dR3=475.0719m
+  dR4=287.7737
+  dR5=1.9791
+  dR6=118.8715
+  Rdc=10m
+  ck=9.2799f
.ends 
*****
.subckt  CMBHC_S_7448227005_450u  1  2  3  4
X1  1  2  3  4  CMBHC  PARAMS:
+  L1=240.2964u
+  L2=57.4004u
+  L3=49.4088u
+  L4=48.2575u
+  L5=134.6386u
+  C1=16.5076p
+  C2=2.1142p
+  Rs1=1.4194k
+  Rs2=1.0354k
+  Rs3=254.1924
+  Rs4=188.4659
+  Rs5=1.6167k
+  R2=53.9886m
+  dL3=131.2058n
+  dC3=3.2289p
+  dL4=5.9502n
+  dC4=3.0154p
+  dR3=477.6953m
+  dR4=337.2696
+  dR5=1.9798
+  dR6=107.1490
+  Rdc=10m
+  ck=10.0773f
.ends
***** 
.subckt  CMBHC_S_7448228002_175u  1 2 3 4
X1  1  2  3  4  CMBHC  PARAMS:
+  L1=799.9988f
+  L2=999.9991f
+  L3=126.5371u
+  L4=999.9991f
+  L5=67.0003u
+  C1=3.0001p
+  C2=52.3926p
+  Rs1=99.9999
+  Rs2=10.0000
+  Rs3=845.1431
+  Rs4=999.9991m
+  Rs5=833.2442
+  R2=1.0001
+  dL3=45.4013n
+  dC3=3.4323p
+  dL4=2.0191n
+  dC4=4.1191p
+  dR3=474.7388m
+  dR4=217.2611
+  dR5=1.9790
+  dR6=119.5636
+  Rdc=6m
+  ck=9.2791f
.ends
****
.subckt  CMBHC_S_7448229004_350u  1  2  3  4
X1  1  2  3  4  CMBHC  PARAMS:
+  L1=799.9739f
+  L2=999.9791f
+  L3=199.3858u
+  L4=999.9791f
+  L5=182.9242u
+  C1=2.0761p
+  C2=20.6132p
+  Rs1=99.9995
+  Rs2=9.9999
+  Rs3=1.3857k
+  Rs4=999.9791m
+  Rs5=1.8685k
+  R2=1
+  dL3=86.7057n
+  dC3=3.6557p
+  dL4=2.6617n
+  dC4=4.1097p
+  dR3=475.0719m
+  dR4=287.7737
+  dR5=1.9791
+  dR6=118.8715
+  Rdc=7m
+  ck=9.2799f
.ends
*****
.subckt  CMBHC_S_74482210002_175u  1  2  3  4
X1  1  2  3  4  CMBHC  PARAMS:
+  L1=799.9988f
+  L2=999.9991f
+  L3=126.5371u
+  L4=999.9991f
+  L5=67.0003u
+  C1=3.0001p
+  C2=52.3926p
+  Rs1=99.9999
+  Rs2=10.0000
+  Rs3=845.1431
+  Rs4=999.9991m
+  Rs5=833.2442
+  R2=1.0001
+  dL3=45.4013n
+  dC3=3.4323p
+  dL4=2.0191n
+  dC4=4.1191p
+  dR3=474.7388m
+  dR4=217.2611
+  dR5=1.9790
+  dR6=119.5636
+  Rdc=4m
+  ck=9.2791f
.ends
******
.subckt  CMBHC 1 2 3 4 PARAMS:
+ L3=130u
+ Rs3=700
+ C1=1.8p
+ R2=1
+ L5=77u
+ C2=44.1p
+ Rs5=830
+ Rs1=0.1k
+ Rs2=10
+ Rs4=1
+ Rdc=1m
+ L1=0.8p
+ L2=1p
+ L4=1p
+ dR5=100
+ ck=7.5p
+ dL4=2n
+ dL3=0.05u
+ dC3=10.1p
+ dC4=1.1p
+ dR3=2.5k
+ dR6=1.53k
+ dR4=0.2k
L5 N009 N008 {L3}
C3 N002 N001 {C1}
L1 4 N010 {L1}
L3 N010 N009 {L2}
L6 N015 N014 {L3}
C4 N024 N013 {C1}
L2 3 N016 {L1}
L4 N016 N015 {L2}
L8 N014 N013 {L4}
L7 N008 N001 {L4}
L9 N001 N007 {L5}
L10 N013 N021 {L5}
R1 N003 1 {Rdc}
R2 N005 N003 {dR4}
C1 N004 N003 {dC3}
L17 N011 N003 {dL3}
L18 N017 N018 {dL3}
C2 N011 N018 {ck}
R3 N005 N004 {dR3}
R4 N019 N022 {dR3}
C9 N022 N017 {dC3}
R5 N019 N017 {dR4}
L19 N005 N011 {dL3}
L20 N018 N019 {dL3}
R6 N017 2 {Rdc}
R8 N007 N005 {dR6}
C10 N006 N005 {dC4}
L13 N012 N005 {dL4}
L14 N019 N020 {dL4}
C11 N012 N020 {ck}
R9 N007 N006 {dR5}
R10 N021 N023 {dR5}
C12 N023 N019 {dC4}
R11 N021 N019 {dR6}
L15 N007 N012 {dL4}
L16 N020 N021 {dL4}
R7 N001 N007 {Rs5}
C5 N001 N007 {C2}
R12 N013 N021 {Rs5}
C6 N013 N021 {C2}
R13 N008 N001 {Rs4}
R14 N009 N008 {Rs3}
R15 N010 N009 {Rs2}
R16 4 N010 {Rs1}
R17 N014 N013 {Rs4}
R18 N015 N014 {Rs3}
R19 N016 N015 {Rs2}
R20 3 N016 {Rs1}
R21 4 N002 {R2}
R22 3 N024 {R2}
K3 L5 L6 1
K2 L3 L4 1
K1 L1 L2 1
K4 L7 L8 1
K5 L9  L10 1
K7a L17 L18 0.9999
K7b L17 L19 0.9999
K7c L17 L20 0.9999
K7d L18 L19 0.9999
K7e L18 L20 0.9999
K7f L19 L20 0.9999
K6a L13 L14 0.9999
K6b L13 L15 0.9999
K6c L13 L16 0.9999
K6d L14 L15 0.9999
K6e L14 L16 0.9999
K6f L15 L16 0.9999
.ends
****